US04020091
To 140.57 grams (1.0 mole) of benzoyl chloride at 90° C there were added 166.2 grams (1.0 mole) of triethyl phosphite over a period of 1 hour. Ethyl chloride evolution ceased at the end of this period. The unreacted benzoyl chloride and triethyl phosphite were removed by distillation at reduced pressure, terminal conditions being 100° C and 8 mm, leaving a residue of 236 grams (90% yield) of diethyl benzoylphosphonate which was reacted with diethyl sodium phosphite as in Example 1 to produce tetraethyl phenyl hydroxymethane diphosphonate. This was hydrolyzed and the hydrolysis product purified in the same manner as in Example 1 to produce phenyl hydroxymethane diphosphonic acid as a viscous syrup having an acid number of 822 mg KOH/mg (Theroy is 835 mg KOH/gm); % P 22.8 (Theory 22.9%).

reactant | benzoyl chloride | 1.0 mole, 140.57 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethyl phosphite | 1.0 mole, 166.2 grams | P(OCC)(OCC)OCC | C6H15O3P
reactant | Ethyl chloride | C(C)Cl | C2H5Cl
product | diethyl benzoylphosphonate | 236 grams, 90% yield | C(C1=CC=CC=C1)(=O)P(OCC)(OCC)=O | C11H15O4P
